US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-4-phenylbutan-1-one
To a solution of 0.160 g (0.594 mmol) of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-4-phenylbutan-1-one in 20 ml of acetic acid, 0.080 ml (0.88 mmol) of 50% aqueous dimethylamine and 0.072 ml (0.88 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-4-phenylbutan-1-one | 0.594 mmol, 0.160 g | O1C=CC=2CN(CCC21)C(CCCC2=CC=CC=C2)=O | C17H19NO2
reactant | dimethylamine | 0.88 mmol, 0.080 ml | CNC | C2H7N
reactant | formaldehyde | 0.88 mmol, 0.072 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-4-phenylbutan-1-one | CN(C)CC1=CC=2CN(CCC2O1)C(CCCC1=CC=CC=C1)=O | C20H26N2O2
